US07446222B2
b) 5″-Amino-2-benzyloxy-5-chloro[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester
A mixture of 2-benzyloxy-5-chloro-phenyl-boronic acid (197 mg, 0.75 mmol), 5-amino-2′-bromo-biphenyl-3-carboxylic acid methyl ester (216 mg, 0.71 mmol), potassium carbonate (828 mg, 6 mmol) and tetrakis(triphenylphosphine)palladium(0) (79 mg, 0.068 mmol) in 1:1 toluene/ethanol (8 ml) was stirred and heated at 90° C. under nitrogen for 2 hours. After cooling the mixture was diluted with diethyl ether and water and the organic phase dried (MgSO4) and evaporated to dryness. The residue was purified using Biotage with ethyl acetate/iso-hexane (1:4) to yield the title compound as a pale yellow gum. (288 mg, 89%).

reactant | 2-benzyloxy-5-chloro-phenyl-boronic acid | 0.75 mmol, 197 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)B(O)O | C13H12BClO3
reactant | 5-amino-2′-bromo-biphenyl-3-carboxylic acid methyl ester | 0.71 mmol, 216 mg | COC(=O)C=1C=C(C=C(C1)N)C1=C(C=CC=C1)Br | C14H12BrNO2
reactant | potassium carbonate | 6 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 8 ml | C1(=CC=CC=C1)C.C(C)O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.068 mmol, 79 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5″-Amino-2-benzyloxy-5-chloro[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=C(C1)N)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C28H24ClNO3
